US08106215B2
2-Amino-5-(4-fluoro-phenyl)-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester with thiourea. LC-MS: tR=0.75 min; [M+H]+=253.

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-5-(4-fluoro-phenyl)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=CC=C(C=C1)F)N | C11H9FN2O2S
